****************************************************
*																	*
*			CELL_2.LIB											*
****************************************************
*	MODEL LEVEL 2
*	TWO DIODES (DIFFUSION,D1 AND RECOMBINATION,D2) 
*	CURRENT SOURCE
*	SERIES RESISTANCE 	RS
*	SHUNT RESISTANCE	RSH
*	BUILT-IN SPICE DIODE MODEL D
*	NODES
*	(300)REFERENCE
*	(301)INTERNAL NODE
*	(302)INPUT, IRRADIANCE
*	(303) OUTPUT

.subckt cell_2 300 303 302 params:area=1, j0=1, jsc=1, j02=1, rs=1, rsh=1

girrad 300 301 value={(jsc/1000)*v(302)*area}
d1 301 300 diode
.model diode d(is={j0*area})
d2 301 300 diode2
.model diode2 d(is={j02*area}, n=2)
rs 301 303 {rs}
rsh 301 300 {rsh}
.ends cell_2
